US07410976B2
tert-butyl 6-carboxy-4-oxospiro(chroman-2,4′-piperidine)-1′ carboxylate.
6-Carboxy-4-oxospiro(chroman-2,4′-piperidine) hydrochloride (15.0 g, 50.3 mmol) was dissolved in 1,4-dioxane (150 ml) and H2O (150 ml), NaHCO3 (10.6 g, 126 mmol) and DIBOC (13.2 g, 60.4 mmol) were added threreto in this order. After stirred at room temperature for 13 h, the reaction mixture was diluted with Et2O and 5N NaOH aq. (12.1 ml). The aqueous layer was washed with Et2O and acidified with 6N HCl aq. (PH=ca. 3), then extracted with CHCl3. The organic layer was washed with brine and dried over MgSO4. The desiccant was removed through filtration and the filtrate was concentrated under reduced pressure. The residue was triturated with MeOH—H2O and the insoluble solid was collected through filtration to obtain the intended compound as a colorless solid.

reactant | 6-Carboxy-4-oxospiro(chroman-2,4′-piperidine) hydrochloride | 50.3 mmol, 15.0 g | Cl.C(=O)(O)C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | NaHCO3 | 126 mmol, 10.6 g | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 150 ml | O | H2O
solvent | Et2O | CCOCC | C4H10O
solvent | NaOH | 5N, 12.1 ml | [OH-].[Na+]
product | tert-butyl 6-carboxy-4-oxospiro(chroman-2,4′-piperidine)-1′ carboxylate | C(=O)(O)C=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O | C19H23NO6
